US07834063B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-(4-fluorophenyl)-N2-(2-methylpropyl)glycinamide
Synthesized as described for Example 91C using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-isobutylglycine and 4-fluoroaniline: MS (APCI) m/z 394 (M+1).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-isobutylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC(C)C)C(F)(F)F | C14H15F3N2O2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-(4-fluorophenyl)-N2-(2-methylpropyl)glycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NC1=CC=C(C=C1)F)CC(C)C)C(F)(F)F | C20H19F4N3O
